Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][CH2:2][N:3]=[C:4]=[S:5].[NH2:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1>>[CH3:1][CH2:2][NH:3][C:4](=[S:5])[NH:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,[NH2:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1.[CH3:1][CH2:2][N:3]=[C:4]=[S:5]>>[CH3:1][CH2:2][NH:3][C:4](=[S:5])[NH:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,nucleophilic_attack_to_iso(thio)cyanate,"[(6, 4), ([4, 5], 5), (5, 6.1), ([6.1, 6], 6), (5, [5, 4]), ([4, 3], 3), (3, 5.1), ([5.1, 5], 5)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([CH2:2][CH2:3][O:4][CH3:5])=[O:6].[NH2:7][c:8]1[cH:9][n:10][c:11]2[cH:12][c:13]([Br:14])[cH:15][cH:16][c:17]2[c:18]1[OH:19]>>[C:1]([CH2:2][CH2:3][O:4][CH3:5])(=[O:6])[NH:7][c:8]1[cH:9][n:10][c:11]2[cH:12][c:13]([Br:14])[cH:15][cH:16][c:17]2[c:18]1[OH:19],[NH2:7][c:8]1[cH:9][n:10][c:11]2[cH:12][c:13]([Br:14])[cH:15][cH:16][c:17]2[c:18]1[OH:19].[Cl:101][C:1]([CH2:2][CH2:3][O:4][CH3:5])=[O:6]>>[C:1]([CH2:2][CH2:3][O:4][CH3:5])(=[O:6])[NH:7][c:8]1[cH:9][n:10][c:11]2[cH:12][c:13]([Br:14])[cH:15][cH:16][c:17]2[c:18]1[OH:19],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(7, 1), ([1, 6], 6), (6, [6, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[c:3]([O:4][c:5]2[cH:6][cH:7][cH:8][c:9]([CH3:10])[cH:11]2)[cH:12][cH:13][c:14]([Cl:15])[cH:16]1)=[O:17].[CH3:18][O:19][C:20](=[O:21])[c:22]1[cH:23][cH:24][c:25]([C@H:26]([CH3:27])[NH2:28])[cH:29][cH:30]1>>[C:1]([c:2]1[c:3]([O:4][c:5]2[cH:6][cH:7][cH:8][c:9]([CH3:10])[cH:11]2)[cH:12][cH:13][c:14]([Cl:15])[cH:16]1)(=[O:17])[NH:28][C@H:26]([c:25]1[cH:24][cH:23][c:22]([C:20]([O:19][CH3:18])=[O:21])[cH:30][cH:29]1)[CH3:27],[OH:101][C:1]([c:2]1[c:3]([O:4][c:5]2[cH:6][cH:7][cH:8][c:9]([CH3:10])[cH:11]2)[cH:12][cH:13][c:14]([Cl:15])[cH:16]1)=[O:17].[CH3:18][O:19][C:20](=[O:21])[c:22]1[cH:23][cH:24][c:25]([C@H:26]([CH3:27])[NH2:28])[cH:29][cH:30]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[c:3]([O:4][c:5]2[cH:6][cH:7][cH:8][c:9]([CH3:10])[cH:11]2)[cH:12][cH:13][c:14]([Cl:15])[cH:16]1)(=[O:17])[NH:28][C@H:26]([c:25]1[cH:24][cH:23][c:22]([C:20]([O:19][CH3:18])=[O:21])[cH:30][cH:29]1)[CH3:27],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (28, 1), ([1, 17], 17), (303, 28.1), ([28.1, 28], 28), (17, [17, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=C(O[OH:1])c1cccc(Cl)c1.[CH3:2][C:3]([CH3:4])=[CH:5][C:6](=[O:7])[NH:8][CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1[N+:16](=[O:17])[O-:18]>>[O:1]1[C:3]([CH3:2])([CH3:4])[CH:5]1[C:6](=[O:7])[NH:8][CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1[N+:16](=[O:17])[O-:18],[CH3:2][C:3]([CH3:4])=[CH:5][C:6](=[O:7])[NH:8][CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1[N+:16](=[O:17])[OH:18].[O:202]=[C:201]([O:101][OH:1])c1cccc(Cl)c1>>[O:1]1[C:3]([CH3:2])([CH3:4])[CH:5]1[C:6](=[O:7])[NH:8][CH2:9][c:10]1[cH:11][cH:12][cH:13][cH:14][c:15]1[N+:16](=[O:17])[OH:18],alkene_epoxidation,"[([3, 5], 1), ([1, 101], [101, 201]), ([201, 202], 1.1), ([1.1, 1], 3)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][CH:2]=[CH2:3].[O:4]=[C:5]1[NH:6][c:7]2[cH:8][cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15][c:16]2[C:17]2=[N:18][CH2:19][CH2:20][CH2:21][N:22]12>>[CH2:1]([CH:2]=[CH2:3])[N:6]1[C:5](=[O:4])[N:22]2[C:17](=[N:18][CH2:19][CH2:20][CH2:21]2)[c:16]2[c:7]1[cH:8][cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15]2,[O:4]=[C:5]1[NH:6][c:7]2[cH:8][cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15][c:16]2[C:17]2=[N:18][CH2:19][CH2:20][CH2:21][N:22]12.[Br:101][CH2:1][CH:2]=[CH2:3]>>[CH2:1]([CH:2]=[CH2:3])[N:6]1[C:5](=[O:4])[N:22]2[C:17](=[N:18][CH2:19][CH2:20][CH2:21]2)[c:16]2[c:7]1[cH:8][cH:9][c:10]([C:11]([F:12])([F:13])[F:14])[cH:15]2,SN2,"[(6, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
